US04675320
Using the method of Example 1, 5-bromomethyl-2-nitro-3-phenylbenzofuran is reacted with pyrrolidine in ethanol to provide yellow crystals of 2-nitro-3-phenyl-5-(1-pyrrolidylmethyl)benzofuran, m.p. 111°-112.5° C., having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | 2-nitro-3-phenyl-5-(1-pyrrolidylmethyl)benzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CN2CCCC2 | C19H18N2O3
